US08193234B2
Ethyl 2-(2-(5-bromo-1-(4-cyanonaphthalen-1-yl)-1H-imidazol-2-ylthio)acetamido)acetate
Glycine ethyl ester hydrochloride (76 mg, 0.541 mmol, 1.2 equiv.), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (130 mg, 0.676 mmol, 1.5 equiv.), 1-hydroxy-7-azabenzotriazole (92 mg, 0.676 mmol, 1.5 equiv.) and 2,6-lutidine (0.16 mL, 1.35 mmol, 3.0 equiv) were added to a solution of 2-(5-bromo-1-(4-cyanonaphthalen-1-yl)-1H-imidazol-2-ylthio)acetic acid (175 mg, 0.451 mmol) in dichloromethane (2.25 mL) and stirred at room temperature for 18 hours. The crude product was purified by SGC (0-100% ethyl acetate/hexanes) to afford the title compound containing some 1-hydroxy-7-azabenzotriazole. The impure product was dissolved in ethyl acetate (50 mL), washed with aqueous HCl solution (0.1M, 2×30 mL), saturated aqueous NaHCO3 solution (30 mL), and saturated sodium chloride solution (30 mL). The organics were dried over sodium sulfate, filtered, and concentrated to afford ethyl 2-(2-(5-bromo-1-(4-cyanonaphthalen-1-yl)-1H-imidazol-2-ylthio)acetamido)acetate as a yellow oil (199 mg, 93%).

reactant | Glycine ethyl ester hydrochloride | 0.541 mmol, 76 mg, 1.2 equiv. | Cl.C(C)OC(CN)=O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.676 mmol, 130 mg, 1.5 equiv. | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-7-azabenzotriazole | 0.676 mmol, 92 mg, 1.5 equiv. | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 2,6-lutidine | 1.35 mmol, 0.16 mL, 3.0 equiv | N1=C(C=CC=C1C)C | C7H9N
reactant | 2-(5-bromo-1-(4-cyanonaphthalen-1-yl)-1H-imidazol-2-ylthio)acetic acid | 0.451 mmol, 175 mg | BrC1=CN=C(N1C1=CC=C(C2=CC=CC=C12)C#N)SCC(=O)O | C16H10BrN3O2S
solvent | dichloromethane | 2.25 mL | ClCCl | CH2Cl2
product | Ethyl 2-(2-(5-bromo-1-(4-cyanonaphthalen-1-yl)-1H-imidazol-2-ylthio)acetamido)acetate | BrC1=CN=C(N1C1=CC=C(C2=CC=CC=C12)C#N)SCC(=O)NCC(=O)OCC | C20H17BrN4O3S
